US09403801B2
Step 4) 3-(9-((5-chloro-2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)-3-azaspiro[5.5]undecan-3-yl)-3-oxopropanenitrile
To a solution of 5-chloro-N2-(1-methyl-1H-pyrazol-4-yl)-N4-(3-azaspiro[5.5]undecan-9-yl)pyrimidine-2,4-diamine (54.0 mg, 0.14 mmol) in a mixture of dichloromethane and DMF (8 mL/2 mL) were added 2-cyanoacetic acid (30.7 mg, 0.36 mmol), Et3N (52.1 mg, 0.52 mmol) and HATU (164.2 mg, 0.43 mmol). The mixture was stirred at room temperature overnight and then concentrated in vacuo. The residue was purified by preparative TLC (MeOH/DCM (V/V)=1/10) to give the title compound as a light yellow solid (53.0 mg, 83.3%).

reactant | 5-chloro-N2-(1-methyl-1H-pyrazol-4-yl)-N4-(3-azaspiro[5.5]undecan-9-yl)pyrimidine-2,4-diamine | 0.14 mmol, 54.0 mg | ClC=1C(=NC(=NC1)NC=1C=NN(C1)C)NC1CCC2(CCNCC2)CC1 | C18H26ClN7
reactant | 2-cyanoacetic acid | 0.36 mmol, 30.7 mg | C(#N)CC(=O)O | C3H3NO2
reactant | Et3N | 0.52 mmol, 52.1 mg | CCN(CC)CC | C6H15N
reactant | HATU | 0.43 mmol, 164.2 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 3-(9-((5-chloro-2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)-3-azaspiro[5.5]undecan-3-yl)-3-oxopropanenitrile | 53.0 mg, 83.3% | ClC=1C(=NC(=NC1)NC=1C=NN(C1)C)NC1CCC2(CCN(CC2)C(CC#N)=O)CC1 | C21H27ClN8O
